US09163011B2
d) 3-Amino-5-(2-methoxy-ethyl)-pyrazine-2-carboxylic acid methyl ester
A solution of 3-amino-5-(2-methoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester (260 mg, 1.24 mmol) and Pd/C 10% (50 mg) in EtOH (10 ml) was stirred at rt and under an atmosphere of hydrogen for 17 h. To complete the reaction, more Pd/C 10% (84 mg) was added and the reaction was stirred under an atmosphere of hydrogen for 37 h. The suspension was filtered off and washed with EtOH and then residual solution was evaporated. The residue was purified by chromatography on silica gel (DCM to DCM/MeOH 9:1) to provide the title compound as yellow solid (147 mg).

reactant | 3-amino-5-(2-methoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester | 1.24 mmol, 260 mg | COC(=O)C1=NC=C(N=C1N)C=COC | C9H11N3O3
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
catalyst | Pd/C | 84 mg | [Pd] | Pd
product | 3-Amino-5-(2-methoxy-ethyl)-pyrazine-2-carboxylic acid methyl ester | 147 mg | COC(=O)C1=NC=C(N=C1N)CCOC | C9H13N3O3
